US08486970B2
To a solution of 3.69 g of di-tert-butyl imidodicarbonate in 54 ml of DMF was added 1.91 g of potassium tert-butoxide at 0° C. under argon, followed by stirring at room temperature for 1 hour. A solution of 2.7 g of methyl 5-(chloromethyl)thiophene-3-carboxylate in 8.1 ml of DMF was slowly added thereto, followed by stirring at room temperature overnight. Water and ethyl acetate were added to the reaction solution, followed by carrying out an extraction operation, and the organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 4.394 g of methyl 5-{[bis(tert-butoxycarbonyl)amino]methyl}thiophene-3-carboxylate.

reactant | di-tert-butyl imidodicarbonate | 3.69 g | C(=O)(OC(C)(C)C)NC(=O)OC(C)(C)C | C10H19NO4
reactant | potassium tert-butoxide | 1.91 g | CC(C)([O-])C.[K+]
reactant | methyl 5-(chloromethyl)thiophene-3-carboxylate | 2.7 g | ClCC1=CC(=CS1)C(=O)OC | C7H7ClO2S
reactant | Water | O | H2O
solvent | DMF | 54 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8.1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-{[bis(tert-butoxycarbonyl)amino]methyl}thiophene-3-carboxylate | 4.394 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CS1)C(=O)OC | C17H25NO6S
